US04634689
(C) 1,3-Dihydro-1,3-Dioxo-δ-Phenyl-2H-Isoindole-2-Butanol
Heat a solution of δ-aminobenzenebutanol (7.32 g), phthalic anhydride (6.57 g) and 4-(dimethylamino)pyridine (0.050 g) in dioxane (100 ml) under a nitrogen atmosphere at reflux for one hour. Evaporate the solvent at atmospheric pressure and heat the residue at 155° C. under a nitrogen atmosphere for 21/2 hours. After cooling, dissolve the residue in EtOAc (400 ml). Wash the solution with 10% aqueous citric acid (50 ml) followed by saturated aqueous NaHCO3 (50 ml) and brine (50 ml). Dry the organic layer over Na2SO4, filter and vacuum evaporate the solvent to obtain the title compound.

reactant | δ-aminobenzenebutanol | 7.32 g | NC(CCCO)C1=CC=CC=C1 | C10H15NO
reactant | phthalic anhydride | 6.57 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
catalyst | 4-(dimethylamino)pyridine | 0.050 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1,3-Dihydro-1,3-Dioxo-δ-Phenyl-2H-Isoindole-2-Butanol | O=C1N(C(C2=CC=CC=C12)=O)C(CCCO)C1=CC=CC=C1 | C18H17NO3
